// Generated for: spectre
// Generated on: Nov  6 03:56:03 2016
// Design library name: Project_416
// Design cell name: CBA_4bit
// Design view name: schematic
simulator lang=spectre
global 0
parameters beta=2

// Library name: Project_416
// Cell name: inverter
// View name: schematic
subckt inverter Gnd In In_bar Vdd
    P0 (In_bar In Vdd Vdd) tsmc20P w=beta*300n l=200n as=beta*300n * 2.5 * (200n) ad=beta*300n * 2.5 * (200n) ps=(2 * beta*300n) + (5 * (200n)) pd=(2 * beta*300n) + (5 * (200n)) m=1 region=sat
    N0 (In_bar In Gnd Gnd) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 ps=1.6u pd=1.6u m=1 region=sat
ends inverter
// End of subcircuit definition.

// Library name: Project_416
// Cell name: Sum
// View name: schematic
subckt Sum Cin Gnd P Sum Vdd
    P3 (Sum Cin net17 Vdd) tsmc20P w=beta*300n l=200n as=beta*300n * 2.5 * (200n) ad=beta*300n * 2.5 * (200n) ps=(2 * beta*300n) + (5 * (200n)) pd=(2 * beta*300n) + (5 * (200n)) m=1 region=sat
    P2 (net17 P_bar Vdd Vdd) tsmc20P w=beta*300n l=200n as=beta*300n * 2.5 * (200n) ad=beta*300n * 2.5 * (200n) ps=(2 * beta*300n) + (5 * (200n)) pd=(2 * beta*300n) + (5 * (200n)) m=1 region=sat
    P1 (Sum Cin_bar net18 Vdd) tsmc20P w=beta*300n l=200n as=beta*300n * 2.5 * (200n) ad=beta*300n * 2.5 * (200n) ps=(2 * beta*300n) + (5 * (200n)) pd=(2 * beta*300n) + (5 * (200n)) m=1 region=sat
    P0 (net18 P Vdd Vdd) tsmc20P w=beta*300n l=200n as=beta*300n * 2.5 * (200n) ad=beta*300n * 2.5 * (200n) ps=(2 * beta*300n) + (5 * (200n)) pd=(2 * beta*300n) + (5 * (200n)) m=1 region=sat
    N3 (net15 P_bar Gnd Gnd) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 ps=1.6u pd=1.6u m=1 region=sat
    N2 (Sum Cin_bar net15 Gnd) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 ps=1.6u pd=1.6u m=1 region=sat
    N1 (net16 P Gnd Gnd) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 ps=1.6u pd=1.6u m=1 region=sat
    N0 (Sum Cin net16 Gnd) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 ps=1.6u pd=1.6u m=1 region=sat
    I1 (Gnd Cin Cin_bar Vdd) inverter
    I0 (Gnd P P_bar Vdd) inverter
ends Sum
// End of subcircuit definition.

// Library name: Project_416
// Cell name: carry
// View name: schematic
subckt carry Carry Cin G Gnd P Vdd
    P2 (Carry G_bar Vdd Vdd) tsmc20P w=beta*300n l=200n as=beta*300n * 2.5 * (200n) ad=beta*300n * 2.5 * (200n) ps=(2 * beta*300n) + (5 * (200n)) pd=(2 * beta*300n) + (5 * (200n)) m=1 region=sat
    P1 (Carry P_bar net29 Vdd) tsmc20P w=beta*300n l=200n as=beta*300n * 2.5 * (200n) ad=beta*300n * 2.5 * (200n) ps=(2 * beta*300n) + (5 * (200n)) pd=(2 * beta*300n) + (5 * (200n)) m=1 region=sat
    P0 (net29 Cin_bar Vdd Vdd) tsmc20P w=beta*300n l=200n as=beta*300n * 2.5 * (200n) ad=beta*300n * 2.5 * (200n) ps=(2 * beta*300n) + (5 * (200n)) pd=(2 * beta*300n) + (5 * (200n)) m=1 region=sat
    N2 (net15 G_bar Gnd Gnd) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 ps=1.6u pd=1.6u m=1 region=sat
    N1 (Carry Cin_bar net15 Gnd) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 ps=1.6u pd=1.6u m=1 region=sat
    N0 (Carry P_bar net15 Gnd) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 ps=1.6u pd=1.6u m=1 region=sat
    I2 (Gnd Cin Cin_bar Vdd) inverter
    I1 (Gnd G G_bar Vdd) inverter
    I0 (Gnd P P_bar Vdd) inverter
ends carry
// End of subcircuit definition.

// Library name: Project_416
// Cell name: full_adder
// View name: schematic
subckt full_adder Carry Cin G Gnd P Sum Vdd
    I0 (Cin Gnd P Sum Vdd) Sum
    I1 (Carry Cin G Gnd P Vdd) carry
ends full_adder
// End of subcircuit definition.

// Library name: Project_416
// Cell name: generate
// View name: schematic
subckt generate A B G Gnd Vdd
    M1 (G B_bar Gnd Gnd) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 ps=1.6u pd=1.6u m=1 region=sat
    M0 (G A_bar Gnd Gnd) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 ps=1.6u pd=1.6u m=1 region=sat
    P0 (G B_bar net21 Vdd) tsmc20P w=beta*300n l=200n as=beta*300n * 2.5 * (200n) ad=beta*300n * 2.5 * (200n) ps=(2 * beta*300n) + (5 * (200n)) pd=(2 * beta*300n) + (5 * (200n)) m=1 region=sat
    P1 (net21 A_bar Vdd Vdd) tsmc20P w=beta*300n l=200n as=beta*300n * 2.5 * (200n) ad=beta*300n * 2.5 * (200n) ps=(2 * beta*300n) + (5 * (200n)) pd=(2 * beta*300n) + (5 * (200n)) m=1 region=sat
    I1 (Gnd B B_bar Vdd) inverter
    I0 (Gnd A A_bar Vdd) inverter
ends generate
// End of subcircuit definition.

// Library name: Project_416
// Cell name: propagate
// View name: schematic
subckt propagate A B Gnd P Vdd
    N1 (net22 B_bar Gnd Gnd) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 ps=1.6u pd=1.6u m=1 region=sat
    N0 (P A_bar net22 Gnd) tsmc20N w=300n l=200n as=1.5e-13 ad=1.5e-13 ps=1.6u pd=1.6u m=1 region=sat
    P1 (P B_bar Vdd Vdd) tsmc20P w=beta*300n l=200n as=beta*300n * 2.5 * (200n) ad=beta*300n * 2.5 * (200n) ps=(2 * beta*300n) + (5 * (200n)) pd=(2 * beta*300n) + (5 * (200n)) m=1 region=sat
    P0 (P A_bar Vdd Vdd) tsmc20P w=beta*300n l=200n as=beta*300n * 2.5 * (200n) ad=beta*300n * 2.5 * (200n) ps=(2 * beta*300n) + (5 * (200n)) pd=(2 * beta*300n) + (5 * (200n)) m=1 region=sat
    I1 (Gnd B B_bar Vdd) inverter
    I0 (Gnd A A_bar Vdd) inverter
ends propagate
// End of subcircuit definition.

// Library name: Project_416
// Cell name: setup
// View name: schematic
subckt setup A B G Gnd P Vdd
    I0 (A B G Gnd Vdd) generate
    I1 (A B Gnd P Vdd) propagate
ends setup
// End of subcircuit definition.

// Library name: Project_416
// Cell name: CBA_4bit
// View name: schematic
I3 (Co_0 Cin G0 0 P0 Sum0 Vdd) full_adder
I2 (Co_1 Co_0 G1 0 P1 Sum1 Vdd) full_adder
I1 (Co_2 Co_1 G2 0 P2 Sum2 Vdd) full_adder
I0 (Co_3 Co_2 G3 0 P3 Sum3 Vdd) full_adder
I7 (A0 B0 G0 0 P0 Vdd) setup
I6 (A1 B1 G1 0 P1 Vdd) setup
I5 (A2 B2 G2 0 P2 Vdd) setup
I4 (A3 B3 G3 0 P3 Vdd) setup
C3 (Sum0 0) capacitor c=5f m=1
C2 (Sum1 0) capacitor c=5f m=1
C1 (Sum2 0) capacitor c=5f m=1
C0 (Sum3 0) capacitor c=5f m=1
V0 (Vdd 0) vsource type=dc dc=1.8
C4 (Co_3 0) capacitor c=5f m=1
V9 (Cin 0) vsource type=pulse val0=0 val1=0
V8 (B0 0) vsource type=pulse val0=0 val1=0
V7 (B1 0) vsource type=pulse val0=0 val1=0
V6 (B2 0) vsource type=pulse val0=0 val1=0
V5 (B3 0) vsource type=pulse val0=0 val1=0
V4 (A3 0) vsource type=pulse val0=0 val1=1.8 period=8u rise=40n fall=40n width=4u
V3 (A2 0) vsource type=pulse val0=0 val1=1.8 period=6u rise=40n fall=40n width=3u
V2 (A1 0) vsource type=pulse val0=0 val1=1.8 period=4u rise=40n fall=40n width=2u
V1 (A0 0) vsource type=pulse val0=0 val1=1.8 period=2u rise=40n fall=40n width=1u
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=10u write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts  where=rawfile
saveOptions options save=allpub
